US04942154
To a solution of 2,3,4,6-tetra-O-acetyl-1-thio-α-D-mannopyranose (287 mg, 0.79 mmol) in dichloromethane (6 ml) was added cholest-5-en-3β-yl 6-iodohexyl ether (470 mg, 0.79 mmol) and triethylamine (0.11 ml, 0.79 mmol). After stirring under dry nitrogen atmosphere overnight at room temperature, the solvent was removed at reduced pressure and the residue chromatographed on silica gel eluted with 5-25% ethyl acetate in hexanes to give 6-(cholest-5-en-3β-yloxy)hexyl 2,3,4,6-tetra-O-acetyl-1-thio-α-D-mannopyranoside (0.36 g, 55% yield), m.p. 103°-103.5° C. This product was dissolved in 1:1 (v/v) ethanol-tetrahydrofuran (10 ml) and treated with a suspension of Bio-Rad AG-1-X2 OH- ion-exchange resin (2.5-3 fold excess) in ethanol (5 ml). After stirring a room temperature for 45 minutes, the resin was filtered and washed with warm tetrahydrofuran (3×5 ml), and the combined filtrates concentrated to give 6-(5-cholesten-3β -yloxy)hexyl 1-thio-α-D-mannopyranoside (250 mg, 91% yield) as needles from warm tetrahydrofuran, m.p. (endothermic transitions) 64-64, 81-82, and 226°-227° C.

reactant | 2,3,4,6-tetra-O-acetyl-1-thio-α-D-mannopyranose | 0.79 mmol, 287 mg | C(C)(=O)O[C@@H]1[C@@H](S)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O9S
reactant | cholest-5-en-3β-yl 6-iodohexyl ether | 0.79 mmol, 470 mg | ICCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C33H57IO
reactant | triethylamine | 0.79 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 6-(cholest-5-en-3β-yloxy)hexyl 2,3,4,6-tetra-O-acetyl-1-thio-α-D-mannopyranoside | 0.36 g, 55% yield | C(C)(=O)O[C@@H]1[C@@H](SCCCCCCO[C@@H]2CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C47H76O10S
